US07566715B2
Synthesis of N-(5-fluoro-2-nitrophenyl)methanesulfonamide (Scheme 2, Method 3)
Methylsulfonamide (2.421 g, 25.4 mmol) was dissolved in DMF (100 mL) and NaH (60% in oil, 1.00 g, 25 mmol) was added. The reaction stirred for 1 h and added to a stirred solution of 2,4-difluoronitrobenzene (4.372 g, 27.5 mmol) in DMF (20 mL). The reaction mixture was stirred for 2 h, poured into a mixture (1:1) of brine and 1M HCl, and extracted with toluene. The organic phase was dried (MgSO4), and concentrated to give a solid that was crystallized from toluene/petroleum ether. The flask tipped over and some material was lost, to give 1.32 g, 5.64 mmol in 22% yield. MS (posES-FIA) m/z=found: 234; Calcd: 234.01; Anal (C7H7F N2 O4 S), C, H, N, S.

reactant | Methylsulfonamide | 25.4 mmol, 2.421 g | CS(=O)(=O)N | CH5NO2S
reactant | NaH | 25 mmol, 1.00 g | [H-].[Na+]
reactant | 2,4-difluoronitrobenzene | 27.5 mmol, 4.372 g | FC1=C(C=CC(=C1)F)[N+](=O)[O-] | C6H3F2NO2
reactant | HCl | 1M | Cl | ClH
solvent | DMF | 100 mL | CN(C)C=O | C3H7NO
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
solvent | brine | [Cl-].[Na+].O
product | N-(5-fluoro-2-nitrophenyl)methanesulfonamide | 22% yield | FC=1C=CC(=C(C1)NS(=O)(=O)C)[N+](=O)[O-] | C7H7FN2O4S
